US06958389B2
4-(2′,3′,4′-tri-O-acetyl-β-D-xylopyranosyloxy)benzaldehyde
p-Hydroxybenzaldehyde (2.2 g, 18 mmol), dichloromethane (20 mL) and a 5% aqueous solution of sodium hydroxide (25 mL) were put in a 100 mL round bottom flask and stirred vigorously. At that time, a water phase turned yellow. To the resulting mixture, tetrabutylammonium bromide (1.0 g, 3.0 mmol) was added, and then, a dichloromethane (about 6 mL) solution of 2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide (4.0 g, 12 mmol) was added dropwise. A reaction vessel was protected from light. The resulting mixture was stirred vigorously at room temperature for 2 days. The separated organic phase was washed with 50 mL of a 5% aqueous solution of sodium hydroxide three times and then with 50 mL of water three times, dried over anhydrous sodium sulfate and evaporated to dryness to give the title compound. Light brown solid. Yield 1.5 g, 34%. The product was unstable at room temperature, and stored in the freezer.

reactant | p-Hydroxybenzaldehyde | 18 mmol, 2.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium hydroxide | 25 mL | [OH-].[Na+]
reactant | 2,3,4-tri-O-acetyl-α-D-xylopyranosyl bromide | 12 mmol, 4.0 g | C(C)(=O)O[C@H]1[C@H](OC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO7
catalyst | tetrabutylammonium bromide | 3.0 mmol, 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | about 6 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(2′,3′,4′-tri-O-acetyl-β-D-xylopyranosyloxy)benzaldehyde | C(C)(=O)O[C@H]1[C@@H](OC[C@H]([C@@H]1OC(C)=O)OC(C)=O)OC1=CC=C(C=O)C=C1 | C18H20O9
